US08859774B2
A solution of (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone (80 mg, 0.14 mmol) and morpholine (150 μL, 1.73 mmol) in acetonitrile (2.5 mL) was heated at 100° C. for 70 minutes in a microwave reactor. The reaction mixture was concentrated and the residue purified by column chromatography on silica gel (gradient: 30-60% ethyl acetate in cyclohexane) to afford (R)-(1-(4-fluorophenyl)-6-((6-morpholinopyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as a colourless glass (70 mg). LCMS (Method D, ESI): RT 4.94 min, m+H=601.0; 1H NMR (400 MHz, CDCl3): δ 8.63 (ddd, J=4.8, 1.7, 0.9 Hz, 1 H); 8.44 (d, J=2.5 Hz, 1 H); 7.84-7.85 (m, 2 H); 7.66 (dd, J=9.1, 2.5 Hz, 1 H); 7.44-7.45 (m, 3 H); 7.29 (s, 1 H); 7.16 (t, J=8.5 Hz, 2 H); 6.49-6.50 (m, 2 H); 5.49 (dd, J=12.1, 2.1 Hz, 1 H); 4.28 (d, J=16.9 Hz, 1 H); 3.80 (t, J=4.8 Hz, 5H); 3.63 (t, J=4.8 Hz, 4H); 2.83-2.85 (m, 2 H); 2.71 (d, J=12.1 Hz, 1 H); 2.47-2.50 (m, 2 H).

reactant | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 0.14 mmol, 80 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C3=NC=CC=C3 | C27H21ClFN5O3S
reactant | morpholine | 1.73 mmol, 150 μL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | (R)-(1-(4-fluorophenyl)-6-((6-morpholinopyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 70 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C=2C=NC(=CC2)N2CCOCC2 | C31H29FN6O4S
